US09193692B2
E. 4-Bromo-N-((dimethylamino)methylene)-2-fluoro-5-methylbenzamide
A solution of 4-bromo-2-fluoro-5-methylbenzamide (20 g, 86 mmol) in N,N-dimethyl-formamide dimethylacetal (200 mL) was stirred at 100° C. under nitrogen for 3 h. The resulting mixture was concentrated and dried to give the desired product (24.6 g, 95% yield) as a yellow oil, which was used in the next step without further purification. MS (ESI) m/z 287.0 [M+1]+.

reactant | 4-bromo-2-fluoro-5-methylbenzamide | 86 mmol, 20 g | BrC1=CC(=C(C(=O)N)C=C1C)F | C8H7BrFNO
reactant | N,N-dimethyl-formamide dimethylacetal | 200 mL | COC(N(C)C)OC | C5H13NO2
product | 4-Bromo-N-((dimethylamino)methylene)-2-fluoro-5-methylbenzamide | 24.6 g, 95% yield | BrC1=CC(=C(C(=O)N=CN(C)C)C=C1C)F | C11H12BrFN2O
